US04282372
2,4-Dimethyl-3-ethyl-2,5-dimethoxy-2,5-dihydrofuran (9.3 g) was added to a mixture of 100 ml of a buffer solution (pH 5; prepared from potassium hydrogen phthalate and sodium hydrogen carbonate) and tetrahydrofuran (50 ml), and the mixture was refluxed for 1 hour. The reaction solution was poured into water, saturated with sodium chloride and extracted three times with ethyl acetate. The ethyl acetate layer was concentrated, and the residue was distilled to obtain 4.3 g of 2-methyl-3-ethyl-cyclopent-2-en-4-on-1-ol.

reactant | 2,4-Dimethyl-3-ethyl-2,5-dimethoxy-2,5-dihydrofuran | 9.3 g | CC1(OC(C(=C1CC)C)OC)OC | C10H18O3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | O | H2O
product | 2-methyl-3-ethyl-cyclopent-2-en-4-on-1-ol | 4.3 g, Yield: 62% | CC=1C(CC(C1CC)=O)O | C8H12O2
